US09193707B2
10. Synthesis of 5-hydroxy-6-dimethylamino-1,2,3,4-tetrahydroisoquinoline
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed methanol (40 mL), Palladium carbon (400 mg) and benzyl 5-(benzyloxy)-6-(dimethylamino)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (1.6 g, 3.84 mmol, 1.00 equiv). To the above H2 gas was introduced in. The resulting solution was stirred overnight at 25° C. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 1 g (crude) of 5-hydroxy-6-dimethylamino-1,2,3,4-tetrahydroisoquinoline as brown oil. MS (ESI) m/z 193 ([M+H]+).

reactant | benzyl 5-(benzyloxy)-6-(dimethylamino)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 3.84 mmol, 1.6 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C2CCN(CC2=CC=C1N(C)C)C(=O)OCC1=CC=CC=C1 | C26H28N2O3
catalyst | Palladium carbon | 400 mg | [C].[Pd]
solvent | methanol | 40 mL | CO | CH4O
product | 5-hydroxy-6-dimethylamino-1,2,3,4-tetrahydroisoquinoline | OC1=C2CCNCC2=CC=C1N(C)C | C11H16N2O
